US08304419B2
Step A: Ethyl 4-fluoro-1H-imidazole-5-carboxylate
Ethyl 4-fluoro-1H-imidazole-5-carboxylate was prepared as described in J. Org. Chem. 1984, 49, 1951. A solution of NaNO2 (76 mg, 2.2 mmol) in minimum amount of H2O was added to a solution of ethyl 4-amino-1H-imidazole-5-carboxylate (310 mg, 2.0 mmol) in 50% HBF4 (7.0 mL) at −10° C. The reaction was stirred for 10 min and then irradiated with medium-pressure mercury vapor lamp (450 W) for 3 h at the same temperature. The mixture was neutralized with NaOH (5N) to Ph=5 while the temperature was maintained at −10° C. The resulting mixture was extracted with EtOAc and the extracts were over sodium sulfate and concentrated. The residue was purified by column chromatography (0-50% EtOAc in Hexane) to give the title compound (50 mg, 16%) as a white solid.

reactant | NaNO2 | 2.2 mmol, 76 mg | N(=O)[O-].[Na+]
reactant | H2O | O | H2O
reactant | ethyl 4-amino-1H-imidazole-5-carboxylate | 2.0 mmol, 310 mg | NC=1N=CNC1C(=O)OCC | C6H9N3O2
reactant | NaOH | 5N | [OH-].[Na+]
reactant | HBF4 | 7.0 mL | [H+].[B-](F)(F)(F)F
product | Ethyl 4-fluoro-1H-imidazole-5-carboxylate | 50 mg, 16% | FC=1N=CNC1C(=O)OCC | C6H7FN2O2
